US07544813B2
Synthesis of 1-hexadecyl-3-methylimidazolium 1,1,2,2-tetrafluoroethanesulfonate (Cation, imidazolium; Anion, Formula 1)
1-Hexadecyl-3-methylimidazolium chloride (17.0 g, 0.0496 moles) was partially dissolved in reagent-grade acetone (100 ml) in a large round-bottomed flask and stirred vigorously. Potassium 1,1,2,2-tetrafluoroethanesulfonate (TFES-K, 10.9 g, 0.0495 moles) was added to reagent grade acetone (100 ml) in a separate round-bottomed flask, and this solution was carefully added to the 1-hexadecyl-3-methylimidazolium chloride solution. The reaction mixture was heated at 60° C. under reflux for approximately 16 hours. The reaction mixture was then filtered using a large frit glass funnel to remove the white KCl precipitate formed, and the filtrate was placed on a rotary evaporator for 4 hours to remove the acetone.

reactant | 1-Hexadecyl-3-methylimidazolium chloride | 0.0496 moles, 17.0 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+]1=CN(C=C1)C
reactant | Potassium 1,1,2,2-tetrafluoroethanesulfonate | 0.0495 moles, 10.9 g | FC(C(F)F)(S(=O)(=O)[O-])F.[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-hexadecyl-3-methylimidazolium 1,1,2,2-tetrafluoroethanesulfonate | FC(C(F)F)(S(=O)(=O)[O-])F.C(CCCCCCCCCCCCCCC)[N+]1=CN(C=C1)C | InChI=1S/C20H39N2.C2H2F4O3S/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-22-19-18-21(2)20-22;3-1(4)2(5,6)10(7,8)9/h18-20H,3-17H2,1-2H3;1H,(H,7,8,9)/q+1;/p-1
